US07598391B2
1,1-Dicyclohexyl-3-[5-(3-oxo-piperazin-1-ylmethyl)-thiazol-2-yl]-urea
Prepared as described in general procedure (P) using 1,1-dicyclohexyl-3-(5-formyl-thiazol-2-yl)-urea (40 mg, 0.12 mmol), 2-piperazinone (18 mg, 0.18 mmol), acetic acid (7 μL, 0.12 mmol) and sodium triacetoxyborohydride (38 mg, 0.18 mmol) to afford 20 mg (40%) of the desired product after purification.

reactant | 1,1-dicyclohexyl-3-(5-formyl-thiazol-2-yl)-urea | 0.12 mmol, 40 mg | C1(CCCCC1)N(C(=O)NC=1SC(=CN1)C=O)C1CCCCC1 | C17H25N3O2S
reactant | 2-piperazinone | 0.18 mmol, 18 mg | N1C(CNCC1)=O | C4H8N2O
reactant | acetic acid | 0.12 mmol, 7 μL | C(C)(=O)O | C2H4O2
reactant | sodium triacetoxyborohydride | 0.18 mmol, 38 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
product | 1,1-Dicyclohexyl-3-[5-(3-oxo-piperazin-1-ylmethyl)-thiazol-2-yl]-urea | 20 mg, 40% | C1(CCCCC1)N(C(=O)NC=1SC(=CN1)CN1CC(NCC1)=O)C1CCCCC1 | C21H33N5O2S
